US05786358
To a solution of 3.12 g (5.9 mmol) of diethyl N-[4-(benzyloxycarbonylamino)-4-tert.-butoxycarbonylbutanoyl]-D-glutamate in 27 mL of anhydrous ethanol was added 0.66 g of 10% Pd/C. The reaction mixture was then stirred under an atmosphere of hydrogen overnight. The catalyst was removed by filtration through Celite® and the filtrate was concentrated in vacuo to give 1.83 g (81%) of diethyl N-(4-amino-4-tert.-butoxycarbonylbutanoyl)-D-glutamate as a white gum. Mass Spectrum (FD+): M+1=389; IR (CHCl3, cm-1)=845, 1023, 1156, 1370, 1394, 1448, 1477, 1507, 1602, 1673, 1729, 2983, 3024, 3426, 3690; Anal. Calcd. for C18H32N2O7 : C, 55.66; H, 8.30; N, 7.21.; Found: C, 55.93; H, 8.01; N, 7.26; 1H NMR (300 MHz, CDCl3) δ1.22-1.30 (m, 6H), 1.45 (s, 9H), 1.75-1.84 (m, 2H), 1.96-2.02 (m, 2H), 2.14-2.22 (m, 2H), 2.32-2.43 (m, 4H), 4.09-4.22 (m, 5H), 4.58-4.60 (m, 1H), 6.96 (d, J=7.4 Hz, 1H).

reactant | diethyl N-[4-(benzyloxycarbonylamino)-4-tert.-butoxycarbonylbutanoyl]-D-glutamate | 5.9 mmol, 3.12 g | C(C1=CC=CC=C1)OC(=O)NC(CCC(=O)N[C@H](CCC(=O)OCC)C(=O)OCC)C(=O)OC(C)(C)C | C26H38N2O9
solvent | ethanol | 27 mL | C(C)O | C2H6O
catalyst | Pd/C | 0.66 g | [Pd] | Pd
product | diethyl N-(4-amino-4-tert.-butoxycarbonylbutanoyl)-D-glutamate | 1.83 g, 81% | NC(CCC(=O)N[C@H](CCC(=O)OCC)C(=O)OCC)C(=O)OC(C)(C)C | C18H32N2O7
